US06642229B2
3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-a]pyrimidine (197 mg, 0.50 mmol) was coupled with 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 3′-[7-(1,1-dimethoxyethyl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile (200 mg, 76%) as a white powder: δH (360 MHz, CDCl3) 1.72 (3H, s), 3.30 (6H, s), 7.39 (1H, d, J 7), 7.49-7.73 (6H, m), 7.78-7.84 (2H, m), 7.97 (1H, s), 8.95 (1H, d, J 7); m/z (ES+) 385 (M++H).

reactant | 3-Bromo-7-(1,1-dimethoxyethyl)imidazo[1,2-a]pyrimidine | 0.50 mmol, 197 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(OC)OC | C10H12BrN3O2
reactant | 3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C=1C(=CC=CC1)C#N)C | C19H20BNO2
product | 3′-[7-(1,1-dimethoxyethyl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile | 200 mg, 76% | COC(C)(OC)C1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=CC=CC2)C#N | C23H20N4O2
